US09382188B2
A) ethyl 3-cyclopropyl-3-(6-(((5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)oxy)methyl)pyrimidin-4-yl)propanoate
Under a nitrogen atmosphere, to a solution of 5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-ol (200 mg) and ethyl 3-cyclopropyl-3-(6-(hydroxymethyl)pyrimidin-4-yl)propanoate (173 mg) in THF (5.0 mL) were added 1,1′-(azodicarbonyl)dipiperidine (279 mg) and tributylphosphine (273 μL) at room temperature, and the mixture was stirred for 4 hr. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (233 mg) as a colorless oil.

reactant | 5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-ol | 200 mg | FC1=C(C=C(C=C1)OC)C=1C=CC(=NC1CC(C)(C)C)O | C17H20FNO2
reactant | ethyl 3-cyclopropyl-3-(6-(hydroxymethyl)pyrimidin-4-yl)propanoate | 173 mg | C1(CC1)C(CC(=O)OCC)C1=NC=NC(=C1)CO | C13H18N2O3
reactant | 1,1′-(azodicarbonyl)dipiperidine | 279 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 273 μL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | ethyl 3-cyclopropyl-3-(6-(((5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)oxy)methyl)pyrimidin-4-yl)propanoate | 233 mg | C1(CC1)C(CC(=O)OCC)C1=NC=NC(=C1)COC1=NC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C30H36FN3O4
